US05843942
A mixture of 2-benzyloxy-5-bromobenzaldehyde (4.2 g) and 2-amino-N-propyl-1,3,4-thiadiazole-5-carboxamide (2.7 g) in toluene (200 mL) was heated under reflux for 2 hours. The solvent was evaporated and residue was dissolved in ethanol (100 mL) and was heated under reflux for 3 hours then allowed to cool to ambient temperature. Sodium borohydride (0.53 g) was added and the reaction mixture was stirred for 16 hours then poured into water (500 mL). The aqueous mixture was extracted 4 times with ethyl acetate (50 mL each time), the combined extracts were washed 3 times with water (100 mL each time) and dried (MgSO4). The residue obtained on removal of the solvent was subjected to chromatography on silica, eluting with a mixture of ethyl acetate and dichloromethane (1/5 v/v), to give 2-[N-(2-benzyloxy-5-bromobenzyl)amino]-N-propyl-1,3,4-thiadiazole-5-carboxamide, yield 0.81 g, mp 154° C.

reactant | 2-benzyloxy-5-bromobenzaldehyde | 4.2 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)Br | C14H11BrO2
reactant | 2-amino-N-propyl-1,3,4-thiadiazole-5-carboxamide | 2.7 g | NC=1SC(=NN1)C(=O)NCCC | C6H10N4OS
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[N-(2-benzyloxy-5-bromobenzyl)amino]-N-propyl-1,3,4-thiadiazole-5-carboxamide | C(C1=CC=CC=C1)OC1=C(CNC=2SC(=NN2)C(=O)NCCC)C=C(C=C1)Br | C20H21BrN4O2S
